US05173497
A solution of 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, ethyl ester (2.89 g) in 1-pentanol (61 ml) was treated at 0° C. under a nitrogen atmosphere with titanium (IV) ethoxide (0.80 ml). The solution was warmed to room temperature and then slowly heated for 2.5 hours keeping the temperature between 60°-80° C. The excess 1-pentanol was removed by distillation under high vacuum. The residue was washed successively with 50 ml of saturated aqueous NH4Cl solution, two 100 ml portions of saturated aqueous NaHCO3 solution and 50 ml of brine. The organic phase was dried (Na2SO4), filtered and concentrated to afford an oil which was purified by chromatography using preparative HPLC (silica gel, 5% methanol in ethyl acetate). The appropriate fractions were combined and concentrated under vacuum to yield 2.2 g of 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, n-pentyl ester as an oil.

reactant | 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, ethyl ester | 2.89 g | O=C(C(=O)OCC)C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C17H22N2O3
reactant | 1-pentanol | 61 ml | C(CCCC)O | C5H12O
catalyst | titanium (IV) ethoxide | 0.80 ml | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, n-pentyl ester | 2.2 g | O=C(C(=O)OCCCCC)C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C20H28N2O3
